US06001825
Step 1: Preparation of N-(chloroacetyl)-3,3-dimethyl-7-nitrobenzisoselenazoline.
To a solution of 3,3-dimethyl-7-nitrobenzisoselenazoline (1.28 g, 5 mmol), in 20 ml of anhydrous THF, containing triethylamine (0.83 ml, 6 mmol), cooled to 5° C. by an ice bath, is added dropwise chloroacetyl chloride (0.48 ml, 6 mmol). The dark brown reaction medium lightens rapidly, becoming luminous orange; as soon as the addition of the acid chloride is complete, a considerable precipitate, corresponding to triethylammonium chloride, appears. The amide formation reaction is exothermic. The ice bath is taken away and stirring is continued for about 1 hour at room temperature. After the addition of 20 ml of water and 20 ml of ethyl acetate, followed by separation, the organic phase is washed with 10 ml of a saturated aqueous solution of NaCl, then dried over MgSO4 and evaporated.

reactant | 3,3-dimethyl-7-nitrobenzisoselenazoline | 5 mmol, 1.28 g | CC1(N[Se]C2=C1C=CC=C2[N+](=O)[O-])C | C9H10N2O2Se
reactant | triethylamine | 6 mmol, 0.83 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 6 mmol, 0.48 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylammonium chloride | [Cl-].C(C)[NH+](CC)CC
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | N-(chloroacetyl)-3,3-dimethyl-7-nitrobenzisoselenazoline | ClCC(=O)N1[Se]C2=C(C1(C)C)C=CC=C2[N+](=O)[O-] | C11H11ClN2O3Se
